US05530015
To a mixture of 1.23 g of 4-(4-isopropoxyphenoxy)phenol, 1.4 g of potassium carbonate and 10 ml of N,N-dimethylformamide, 0.65 ml of allyl bromide was added dropwise at room temperature with stirring. After 24 minutes, the reaction solution was poured into water, and acidified by adding 10% hydrochloric acid. The solution was extracted with 50 ml of diethyl ether, washed in turn with 10% hydrochloric acid, an aqueous 10% sodium hydroxide and a saturated saline solution, dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to silica gel column chromatography to give 0.98 g of 4-(4-isopropoxyphenoxy)phenyl allyl ether (yield, 69%).

reactant | 4-(4-isopropoxyphenoxy)phenol | 1.23 g | C(C)(C)OC1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C15H16O3
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 0.65 ml | C(C=C)Br | C3H5Br
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(4-isopropoxyphenoxy)phenyl allyl ether | 0.98 g, 69% | C(C=C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)OC(C)C | C18H20O3
